US07977340B2
To a stirred solution of 1-[7-Bromo-5-(5-methoxy-pyridin-3-yl)-benzothiazol-2-yl]-3-ethyl-urea (90 mg, 0.22 mmol), and bis(triphenylphosphine)palladium(II) chloride (10 mg, 0.015 mmol), in tetrahydrofuran (4 ml), was added 2-pyridylzinc bromide (3.1 ml, 1.5 mmol, 0.5 M solution in THF). The reaction was purged with nitrogen then heated at 60° C. for 16 h. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous ammonium chloride solution followed by brine. The organic phase was dried (MgSO4), filtered and concentrated in vacuo. The crude material was purified by preparative HPLC to give 1-Ethyl-3-[5-(5-methoxy-pyridin-3-yl)-7-pyridin-2-yl-benzothiazol-2-yl]-urea as a white solid (25 mg, 27%)

reactant | 1-[7-Bromo-5-(5-methoxy-pyridin-3-yl)-benzothiazol-2-yl]-3-ethyl-urea | 0.22 mmol, 90 mg | BrC1=CC(=CC=2N=C(SC21)NC(=O)NCC)C=2C=NC=C(C2)OC | C16H15BrN4O2S
reactant | 2-pyridylzinc bromide | 1.5 mmol, 0.5 M, 3.1 ml | [Br-].N1=C(C=CC=C1)[Zn+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.015 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-Ethyl-3-[5-(5-methoxy-pyridin-3-yl)-7-pyridin-2-yl-benzothiazol-2-yl]-urea | 25 mg, 27% | C(C)NC(=O)NC=1SC2=C(N1)C=C(C=C2C2=NC=CC=C2)C=2C=NC=C(C2)OC | C21H19N5O2S
